US07727979B2
2-bromo-spiro[5,5]undecan-1-one (Starting Product for Example C-47)
The bromination of spiro[5.5]undecan-1-one takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | spiro[5.5]undecan-1-one | C1(CCCCC12CCCCC2)=O | C11H18O
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 2-bromo-spiro[5,5]undecan-1-one | BrC1C(C2(CCC1)CCCCC2)=O | C11H17BrO
